US07572820B2
1-{[5-(2-Pyridinyl)-1,3,4-oxadiazol-2-yl]methyl}-4-(trifluoromethyl)-1H-indole-5-carbonitrile
Synthesized as described in Example 35C from [5-cyano-4-(trifluoromethyl)-1H-indol-1-yl]acetic acid and 2-pyridinecarbohydrazide: MS (ES) m/z 370 (M+1).

reactant | [5-cyano-4-(trifluoromethyl)-1H-indol-1-yl]acetic acid | C(#N)C=1C(=C2C=CN(C2=CC1)CC(=O)O)C(F)(F)F | C12H7F3N2O2
reactant | 2-pyridinecarbohydrazide | N1=C(C=CC=C1)C(=O)NN | C6H7N3O
product | 1-{[5-(2-Pyridinyl)-1,3,4-oxadiazol-2-yl]methyl}-4-(trifluoromethyl)-1H-indole-5-carbonitrile | N1=C(C=CC=C1)C1=NN=C(O1)CN1C=CC2=C(C(=CC=C12)C#N)C(F)(F)F | C18H10F3N5O
